US08835494B2
1-(3′,4′-Dichloro-2-fluorobiphenyl-4-yl)cyclopropane carboxylic acid oxiranylmethyl ester (1.0 g, 2.62 mmol) was dissolved in dry DCM (25 mL), and the solution was cooled at −20° C. To this solution 2,2,2-trifluoroacetic anhydride (1.46 mL, 10.49 mmol) in dry DCM (25 mL) was added, and the reaction mixture was kept at r.t. for 2 hours. All the volatile components were removed under reduced pressure, and traces of trifluoroacetic anhydride were removed by co-evaporation with toluene (2×100 mL) to afford crude 1-(3′,4′-dichloro-2-fluorobiphenyl-4-yl)cyclopropanecarboxylic acid 2-(2,2,2-trifluoro-acetoxy)-1-(2,2,2-trifluoro-acetoxymethyl)ethyl ester (1.4 g, 2.368 mmol) as a colourless oil. 1-(3′,4′-Dichloro-2-fluorobiphenyl-4-yl)cyclopropanecarboxylic acid 2-(2,2,2-trifluoro-acetoxy)-1-(2,2,2-trifluoro-acetoxymethyl)ethyl ester (0.9 g, 1.522 mmol) was dissolved in a mixture of pentane/CH2Cl2 (3/1 v/v; 10 mL), and the solution was cooled at −20° C. To this solution, pyridine (1.231 mL, 15.22 mmol) and methanol (0.925 mL, 22.83 mmol) dissolved in a mixture of pentane/DCM (3/1 v/v; 10 mL) were added. The reaction mixture was allowed to warm to r.t. and stirred at r.t. for 1 hour and 45 minutes. The solvent was removed under reduced pressure, and the residue was dried under vacuum for 1 hour to obtain crude 1-(3′,4′-dichloro-2-fluorobiphenyl-4-yl)cyclopropane carboxylic acid 2-hydroxy-1-hydroxymethylethyl ester (0.61 g, quantitative yield) which was used as such in the next reaction.

reactant | 1-(3′,4′-Dichloro-2-fluorobiphenyl-4-yl)cyclopropanecarboxylic acid 2-(2,2,2-trifluoro-acetoxy)-1-(2,2,2-trifluoro-acetoxymethyl)ethyl ester | 1.522 mmol, 0.9 g | FC(C(=O)OCC(COC(C(F)(F)F)=O)OC(=O)C1(CC1)C1=CC(=C(C=C1)C1=CC(=C(C=C1)Cl)Cl)F)(F)F | C23H15Cl2F7O6
reactant | pyridine | 15.22 mmol, 1.231 mL | N1=CC=CC=C1 | C5H5N
reactant | methanol | 22.83 mmol, 0.925 mL | CO | CH4O
solvent | pentane CH2Cl2 | 10 mL | CCCCC.C(Cl)Cl
solvent | pentane DCM | 10 mL | CCCCC.C(Cl)Cl
product | 1-(3′,4′-dichloro-2-fluorobiphenyl-4-yl)cyclopropane carboxylic acid 2-hydroxy-1-hydroxymethylethyl ester | 0.61 g, quantitative yield | OCC(CO)OC(=O)C1(CC1)C1=CC(=C(C=C1)C1=CC(=C(C=C1)Cl)Cl)F | C19H17Cl2FO4
